US04692442
2-[(3S,4R)-4-acetylthio-3-phenoxyacetoxy-2-oxoazetidin-1-yl]-3-methylcrotonic acid methyl ester
A solution of 687 mg (1.29 mmole) of 2-[(3S,4R)-4-(benzthiazol-2-yldithio)-3-phenoxyacetoxy-2-oxoazetidin-1-yl]-3-methylcrotonic acid methyl ester in 14 ml of dimethylformamide is added to a solution, cooled to -20°, of 76 mg (2 mmole) of sodium borohydride in 10 ml of dimethylformamide and the mixture is stirred at the same temperature for 10 minutes. 7 ml of freshly distilled acetyl bromide are added to the reaction mixture, which is further stirred at 0° for 40 minutes. After adding 400 ml of benzene, the reaction mixture is washed in succession with aqueous sodium bicarbonate solution, water and sodium chloride solution, dried over sodium sulphate and concentrated by evaporation in vacuo. After chromatography over silica gel with toluene/ethyl acetate (19:1) the residue yields the title compound in the form of an oil, which is further purified on silica gel plates with toluene/ethyl acetate (4:1). The title compound is obtained in oily form.

reactant | 2-[(3S,4R)-4-(benzthiazol-2-yldithio)-3-phenoxyacetoxy-2-oxoazetidin-1-yl]-3-methylcrotonic acid methyl ester | 1.29 mmole, 687 mg | COC(C(=C(C)C)N1C([C@@H]([C@H]1SSC=1SC2=C(N1)C=CC=C2)OC(COC2=CC=CC=C2)=O)=O)=O | C24H22N2O6S3
reactant | sodium borohydride | 2 mmole, 76 mg | [BH4-].[Na+]
reactant | acetyl bromide | C(C)(=O)Br | C2H3BrO
reactant | benzene | 400 ml | C1=CC=CC=C1 | C6H6
solvent | dimethylformamide | 14 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 2-[(3S,4R)-4-acetylthio-3-phenoxyacetoxy-2-oxoazetidin-1-yl]-3-methylcrotonic acid methyl ester | COC(C(=C(C)C)N1C([C@@H]([C@H]1SC(C)=O)OC(COC1=CC=CC=C1)=O)=O)=O | C19H21NO7S
